US05177089
Methyl N-(3,4-dimethoxyphenylacetyl)piperidine-2-carboxylate
5.00 of piperidine-2-carboxylic acid was dissolved into an aqueous 80 ml solution of saturated sodium hydrogen carbonate and stirred at a room temperature. 20 ml of an acetonitrile solution of 9.2 g of 3,4-dimethoxyphenyl acetyl chloride was dropped and stirred for 30 min. After washing the aqueous layer with ethyl acetate, the aqueous layer was adjusted to about pH 2 with concentrated hydrochloric acid and extracted with chloroform. Chloroform was distilled off and the resultant residue was refluxed for 6 hours with addition of 150 ml of methanol and 0.5 ml of concentrated sulfuric acid. After distilling off methanol, an aqueous diluted solution of sodium hydrogen carbonate was added and extracted with ethyl acetate. After drying with anhydrous magnesium sulfate, the solvent was distilled off and the residue was purified on silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) to obtain 3.94 g of the above-captioned compound as yellow oil (yield: 32%).

reactant | piperidine-2-carboxylic acid | N1C(CCCC1)C(=O)O | C6H11NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 3,4-dimethoxyphenyl acetyl chloride | 9.2 g | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Methyl N-(3,4-dimethoxyphenylacetyl)piperidine-2-carboxylate | 3.94 g, yield: 32% | COC=1C=C(C=CC1OC)CC(=O)N1C(CCCC1)C(=O)OC | C17H23NO5
